US20010012877A1
To a solution of 1,2,3,4,4a,5,6,7,8,9a-decahydrofluoren--9-one (90.7 mg, 0.477 mmol) in tetrahydrofuran (5 ml), 0.35 ml (1.05 mmol) of methylmagnesium bromide (3.0 M in Et2O) was added dropwise under nitrogen at −78° C. The resulting cloudy mixture was kept at −78° C. for 3 hours and then allowed to warm to room temperature and stirred for 14 hours. The reaction mixture was acidified with 15% aqueous HCl (5 ml), followed by extraction in Et2O (4×20 ml). All organic layers were combined, washed with water, brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give 82.5 mg (92 %) of 2,3,4,4a,5,6,7,8-octahydro-9-methyl-1H-fluorene and 1,3,4,5,6,7,8,9a-octahydro-9-methyl-2H-fluorene in the ratio of 3 to 1. 1H-NMR (CDCl3): δ 2.6-0.9 (m), 13C NMR: 155.77, 136.49, 133.51, 111.70, 61.12, 50.29, 42.14, 29.74, 27.41, 25.46, 25.11, 23.38, 22.81.

reactant | 1,2,3,4,4a,5,6,7,8,9a-decahydrofluoren--9-one | 0.477 mmol, 90.7 mg | C1CCCC2C=3CCCCC3C(C12)=O | C13H18O
reactant | methylmagnesium bromide | 1.05 mmol, 3.0 M, 0.35 ml | C[Mg]Br
reactant | HCl | 5 ml | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2,3,4,4a,5,6,7,8-octahydro-9-methyl-1H-fluorene | 82.5 mg, 92 % | CC=1C=2CCCCC2C2CCCCC12 | C14H20
